US04579947
1-{3-(4-Benzylpiperazin-1-yl)propyl]-3-cyclohexylurea dihydrochloride
A solution of 1-(3-aminopropyl)-4-benzylpiperazine (2 g; 12.9 mmole) and cyclohexyl isocyanate (1.6 g; 12.9 mmole) in methylene chloride (50 ml) was stirred overnight at room temperature. The reaction mixture was concentrated, and the crude product was precipitated as the dihydrochloride from ether in the manner described in Example 6. Recrystallization from ethanol provided the title compound as colorless crystals (3.62 g; 65% yield), m.p. 202°-213° C.

reactant | 1-(3-aminopropyl)-4-benzylpiperazine | 12.9 mmole, 2 g | NCCCN1CCN(CC1)CC1=CC=CC=C1 | C14H23N3
reactant | cyclohexyl isocyanate | 12.9 mmole, 1.6 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-(4-Benzylpiperazin-1-yl)propyl]-3-cyclohexylurea dihydrochloride | 3.62 g, 65% yield | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCNC(=O)NC1CCCCC1 | InChI=1S/C21H34N4O.2ClH/c26-21(23-20-10-5-2-6-11-20)22-12-7-13-24-14-16-25(17-15-24)18-19-8-3-1-4-9-19;;/h1,3-4,8-9,20H,2,5-7,10-18H2,(H2,22,23,26);2*1H
